Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dizziness, nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with PMH HTN,
chronic hand pain, chronic headaches, prediabetes, who presents
from home with dizziness and nausea. Reports of onset of 
symptoms
are variable, with ED reporting last ___, patient reporting 
2d
PTA, outpatient notes reporting 4d PTA. Patient reported
hyperacute onset of dizziness, feeling like the room is spinning
around him, at first lasting a few minutes, then up to an hour,
with nausea started day PTA, no vomiting, and feeling sweaty,
resolving without intervention. Worse with opening his eyes (has
been keeping them closed), head turn (esp to the right), 
position
changes. Associated with R side tinnitus, which patient has had
intermittently over years. No ear pain, fevers. No falls, LOC.

In the ED at 12:30 ___, code stroke was called given patient's
severe nystagmus.   
 
PE showed:
General: unwell appearing ___ male n NAD
HEENT: NC, AT. Significant nystagmus with central gaze. Right
beating nystagmus, which initially appeared direction changing.
Neck: no cervical lymphadenopathy
Chest: CTAB
CV: RRR, nrml s1/s2, no m/g/r.
Abdomen: soft, ___, no HSM
Ext: no edema
Neuro: AOx3, ___ intact, ataxia appreciated, strength ___ in
all extremities, FNF intact, HINTS (performed after CT/CTA)
corrective saccade and right beating nystagmus. No dysarthria. 
No
aphasia. Symmetric face.

CTA head and neck was done.
CT head: No acute intracranial hemorrhage or infarct.

CTA head and neck: The major vessels of the neck, circle of
___, and their principal intracranial branches appear without
flow limiting stenosis, occlusion, or formation of aneurysms
larger than 3 mm. Hypoplastic left venous sinus.

Final read pending reformats.

Neurology recommendations:
___ man who presented as a code stroke after several
episodes of room spinning vertigo over the past 3 days.

There are several reassuring findings on exam: Right beating
nystagmus with rightward and leftward gaze, corrective saccades
to the right, no nystagmus with vertical gaze, and absence of
other neurological signs. The nystagmus worsened when fixation
was interrupted, another feature of peripheral vertigo.

Recommendations
-symptomatic treatment of vertigo per ED
-treatment of lab abnormalities per ED
-return to ED if new symptoms such as weakness, aphasia, etc...
-dispo per ED
-if symptoms persist for more than 1 week, will need PCP 
referral
to ___ neurologist"

Per conversation with ED, symptoms most consistent with
vestibular neuritis. Otoscope exam was normal. Patient was not
walking independently in ED, had assistance (counter to
documented code stroke exam), but was initially feeling better
and considered going home, but then had recurrence of symptoms.
 
He received: 
___ 17:13 IV LORazepam 1 mg 
___ 22:31 PO Meclizine 25 mg 
___ 22:31 PO Potassium Chloride 40 mEq   
___ 22:33 PO Acetaminophen 650 mg

Upon arrival to floor, patient reported the above story. He felt
some relief with meclizine and Ativan. Reported almost blacking
out when sat up for the CT scanner. Reported occasional R ear
tinnitus (ringing, not pulsatile), usually if congested. He
denied nasal congestion, sore throat, cough, dyspnea, CP,
palpitations, lightheadness, abdominal pain,
weakness/numbness/tingling, diarrhea, poor UOP. Reported poor PO
intake today but good appetite. Has daily headaches for which he
usually takes Excedrin. He has chronic hand pain related to MVC 
___
years ago and occasionally takes NSAIDs for this. 
 
Past Medical History:
Essential hypertension 
obesity 
Colon adenoma
 
Social History:
___
Family History:
Father  Cancer - ___ (70); Heart ___ 
Mother ___ No Significant Medical History
 
Physical Exam:
ADMISSION EXAM
VITALS: 97.6 PO 137 / 85 L Lying 57 20 95 RA 
GENERAL: Alert, uncomfortable 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Neck: no cervical LAD
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is ___
GI: Abdomen soft, ___ to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
central gaze and R beating nystagmus (do not see any on the
left), speech fluent, moves all limbs, sensation to light touch
grossly intact throughout, strength ___ throughout, ni tact FNF,
deferred ambulation
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
24 HR Data (last updated ___ @ 727)
    Temp: 97.8 (Tm 97.8), BP: 124/76 (___), HR: 58
(___), RR: 18 (___), O2 sat: 97% (___), O2 delivery: RA,
Wt: 285 lb/129.28 kg  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMMs
CV: RRR no m/r/g
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is ___
GI: Abdomen soft, ___ to palpation.  
EXTR: wwp no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI with severe horizontal nystagmys with rightward gaze, 
speech
fluent, motor function grossly intact/symmetric, FTN intact
bilaterally
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Labs
___ 04:10PM BLOOD ___ 
___ Plt ___
___ 07:15AM BLOOD ___ 
___ Plt ___
___ 04:10PM BLOOD ___ ___
___ 04:10PM BLOOD ___ 
___
___ 07:15AM BLOOD ___ 
___
___ 05:18PM BLOOD ___
___ 05:18PM BLOOD cTropnT-<0.01
___ 05:18PM BLOOD ___
___ 07:15AM BLOOD ___
___ 05:18PM BLOOD ___ 
___
___ 05:28PM BLOOD ___ 
___

CTA head/neck
1. Normal head CT.
2. Patent circle of ___ without evidence of 
stenosis,occlusion,or aneurysm.
3. Patent bilateral cervical carotid and vertebral arteries 
without evidence of stenosis, occlusion, or dissection.

 
Brief Hospital Course:
#Suspected vestibular neuritis
___ is a ___ man with HTN, chronic hand 
pain, chronic headaches, and prediabetes, who presented from 
home with dizziness and nausea, likely due to vestibular 
neuritis. His symptoms began several days before the admission 
and were rapid in onset, causing severe nausea and gait 
instability. He was evaluated by neurology and noted to have 
rightward nystagmus, most severe with rightward eye movements. 
HINTS exam and all clinical features felt to be consistent with 
peripheral cause of vertigo and most consistent with vestibular 
neuritis. He was started on meclizine with slight improvement. 
Other treatments were held per neurology recommendations given 
lack of evidence for efficacy. The patient was able to tolerate 
POs and ambulate and preferred to return home. He was counseled 
on safety while at home and still symptomatic, as well as red 
flags that should prompt immediate return to care. He was given 
a small amount of meclizine in case there are moments when he 
needs symptom control in the upcoming days, but otherwise he was 
encouraged to avoid ___ to allow for recovery of his 
vestibular system. He was provided with a referral to vestibular 
___ and should ___ closely with his PCP. Referral to 
neurology can be considered as an outpatient. 

# Leukocytosis
In absence of other infectious symptoms, signs, possibly stress 
reaction. Improving prior to discharge

# HTN
Held amlodipine and HCTZ initially since not eating/drinking 
well, but restarted at discharge since PO intake improved. 

# Chronic headaches
Reports frequent headaches relieved by Excedrin, not thought to 
be migraines, unclear cause. Consider outpatient referral to 
headache clinic.

======================
TRANSITIONAL ISSUES:

- close PCP ___
- consider neurology referral if persistent symptoms
- return to ED if new neurologic features
- vestibular ___ referral given to patient

======================

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Diclofenac Sodium ___ 50 mg PO TID:PRN pain 
4. Excedrin Extra Strength (___) 
___ mg oral DAILY:PRN headache 

 
Discharge Medications:
1.  Meclizine 25 mg PO DAILY:PRN vertigo Duration: 3 Days 
RX *meclizine 25 mg 1 tablet(s) by mouth daily as needed Disp 
#*3 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Diclofenac Sodium ___ 50 mg PO TID:PRN pain  
4.  Excedrin Extra Strength (___) 
___ mg oral DAILY:PRN headache  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.Outpatient Physical Therapy
___ rehabilitation
Diagnosis: vestibular neuritis (ICD 10 H81.2)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspected vestibular neuritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of severe dizziness, 
which we suspect was due to vestibular neuritis, which is an 
inflammation of the vestibular system, which is involved in 
balance. It is often caused by a virus. This condition typically 
___, and we expect that your symptoms will gradually 
improve in the upcoming ___. We have provided a 
referral for vestibular physical therapy, which can help in the 
recovery process. We have prescribed several pills of meclizine 
which you can take if needed for ongoing symptoms. As we 
discussed, you should exercise additional precautions when you 
return home to remain safe from falls if your symptoms persist. 

You should call ___ if you develop new symptoms of blurry or 
double vision, difficulty with speech, weakness, numbness, 
difficulty walking, or worsened coordination. 

If your current symptoms are slow to improve or are not 
improving over the upcoming days, then you should contact your 
primary care doctor. 
 
Followup Instructions:
___